US04840971
(i) Synthesis of 2-(4-trifluoromethylphenyl)-3,3,3-trifluoropropenyl methyl ether
Under a nitrogen atmosphere, 25.0 ml of n-butyllithium/hexane solution (1.2M solution) was added to a solution of 12.7 g of methoxymethyltriphenylphosphonium chloride in 100 ml of dry THF at -60° C. The reaction solution was stirred at -60° C. for 30 minutes and at -20° C. for 30 minutes. A solution of 6.0 of 4-trifluoromethyl-α,α,α-trifluoroacetophenone in 10 ml of dry THF was slowly added to the reaction solution at -60° C. The reaction solution was stirred at -60° C. for 1 hour and at room temperature for 14 hours. Thereafter, 150 ml of n-hexane was added to the reaction mixture and insoluble materials were filtered out. The filtrate was washed with dilute HCl-ice water and saturated sodium chloride solution successively and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and 6.1 g of the crude product (E/Z=ca. 1/1) was obtained.

reactant | n-butyllithium hexane | 1.2M, 25.0 ml | C(CCC)[Li].CCCCCC
reactant | methoxymethyltriphenylphosphonium chloride | 12.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-trifluoromethyl-α,α,α-trifluoroacetophenone | C1=CC(=CC=C1C(=O)C(F)(F)F)C(F)(F)F | C9H4F6O
reactant | n-hexane | 150 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(4-trifluoromethylphenyl)-3,3,3-trifluoropropenyl methyl ether | 6.1 g | COC=C(C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C11H8F6O
